US04845228
(1) 2-Acetyl-4-methylcyclohexanone
40% Boron trifluoride-acetic acid complex, 24 g, was chilled with ice and a mixture of 5.6 g of 4-methylcyclohexanone and acetic anhydride was dropwise added to the complex. After stirring at room temperature for 4 hours, approximately 50 ml of saturated sodium acetate aqueous solution was added to the mixture followed by heating to reflux for 1 hour. After cooling, the reaction mixture was extracted with ether and the extract was washed with a sodium bicarbonate aqueous solution and then water. Thereafter, the system was dried and ether was removed by distillation. The obtained 2-acetyl-4-methylcyclohexanone was used in the whole amount at the following step in a crude state thereof.

reactant | 4-methylcyclohexanone | 5.6 g | CC1CCC(CC1)=O | C7H12O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | sodium acetate | approximately 50 ml | C(C)(=O)[O-].[Na+]
product | 2-Acetyl-4-methylcyclohexanone | C(C)(=O)C1C(CCC(C1)C)=O | C9H14O2
